US09260427B2
Prepared using General Procedure 2: To a stirring solution (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-cyanophenyl)propanoate (1.0 g, 2.74 mmol) in EtOH (15 mL) were added hydroxylamine hydrochloride (572.2 mg, 8.22 mmol) and TEA (1.38 g, 13.7 mmol). The reaction was heated to 85° C. for 2 h. The solvent was removed under reduced pressure and the residue was diluted with water (20 mL) and extracted with DCM (3×10 mL). The combined organic layers were concentrated under reduced pressure. The crude material was crystallized from isopropanol (20 mL) to afford 1.04 g (95%) of (S,Z)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(N′-hydroxycarbamimidoyl)phenyl)propanoate (INT-2) as a white solid. LCMS-ESI (m/z): calcd for: C22H27N3O4, 397.2. found 398.1 [M+H]+, tR=2.26 min (Method 1). 1H NMR (400 MHz, DMSO) δ 10.19 (s, 1H), 9.57 (s, 1H), 8.78 (d, J=7.9 Hz, 1H), 7.74 (d, J=8.4 Hz, 2H), 7.58 (d, J=8.2 Hz, 2H), 7.48 (d, J=8.4 Hz, 2H), 7.30 (d, J=8.3 Hz, 2H), 4.79-4.49 (m, 1H), 3.65 (s, 3H), 3.15 (dt, J=13.6, 6.0 Hz, 2H), 1.75 (d, J=13.6 Hz, 1H), 1.29 (s, 9H).

reactant | (S)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-cyanophenyl)propanoate | 2.74 mmol, 1.0 g | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)C#N)C=C1 | C22H24N2O3
reactant | hydroxylamine hydrochloride | 8.22 mmol, 572.2 mg | Cl.NO
solvent | EtOH | 15 mL | CCO | C2H6O
product | (S,Z)-methyl 2-(4-(tert-butyl)benzamido)-3-(4-(N′-hydroxycarbamimidoyl)phenyl)propanoate | 1.04 g, 95% | C(C)(C)(C)C1=CC=C(C(=O)N[C@H](C(=O)OC)CC2=CC=C(C=C2)/C(/N)=N/O)C=C1 | C22H27N3O4
